### PR TITLE
[Merged by Bors] - feat: add characterisation of closed interval for locally-finite conditionally complete linear orders

### PR DESCRIPTION
**Pull request by ocfnash**
Co-authored-by: Michael Stoll <MichaelStollBayreuth@users.noreply.github.com>
Co-authored-by: Kevin Buzzard <k.buzzard@imperial.ac.uk>
Co-authored-by: Bhavik Mehta <bhavikmehta8@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Interval/Set/Icc.lean [hunk 1]
```diff
@@ -0,0 +1,78 @@
...
+   for `ℕ`.
+ * `Set.Finite.eq_Icc_of_Ioo_subseteq_compl_empty_int`: characterisation of closed intervals
+   for `ℤ`.
+-/
+
+variable {α : Type*} {I : Set α}
+
+lemma Set.Finite.ordConnected_of_Ioo_subseteq_compl_empty [LinearOrder α]
+    (h₁ : I.Finite)
+    (h₂ : ∀ᵉ (x ∈ I) (y ∈ I), Ioo x y ⊆ Iᶜ → Ioo x y = ∅) :
```
Comment (eric-wieser) [inline Mathlib/Order/Interval/Set/Icc.lean:34]: Is `Ioo x y = ∅` better written as `y ≤ x` (along with a simp lemma to make the transformation?)

File: Mathlib/Order/Interval/Set/Icc.lean [hunk 2]
```diff
@@ -0,0 +1,78 @@
...
+    I.OrdConnected := by
```
Comment (eric-wieser) [inline Mathlib/Order/Interval/Set/Icc.lean:35]: Is this theorem true as an `Iff`?

File: Mathlib/Order/Interval/Set/Icc.lean [hunk 3]
```diff
@@ -0,0 +1,78 @@
+/-
+Copyright (c) 2025 Oliver Nash. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Michael Stoll, Kevin Buzzard, Bhavik Mehta, Oliver Nash
```
Comment (MichaelStollBayreuth) [inline Mathlib/Order/Interval/Set/Icc.lean:4]: Thanks for adding me, but this is really not necessary.

File: Mathlib/Order/Interval/Set/Icc.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Order/Interval/Set/Icc.lean:34]: Nevermind, I'm wrong and you also have the lemma already!

File: Mathlib/Order/Interval/Set/Icc.lean (hunk 2 above)
Comment (b-mehta) [reply Mathlib/Order/Interval/Set/Icc.lean:35]: If it is, then my preference is that the lemmas below be stated in terms of OrdConnected instead, as the "canonical" way of describing this condition

File: Mathlib/Order/Interval/Set/Icc.lean (hunk 1 above)
Comment (b-mehta) [inline Mathlib/Order/Interval/Set/Icc.lean:34]: Note `Ioo x y ⊆ Iᶜ` is equivalent to `Disjoint I (Ioo x y)`, so this condition is saying that any open nonempty interval with endpoints in I has nonempty intersection with I... And now this sounds very topological in flavour. All this to say, I think there's a generalisation possible in either the LinearOrder assumption, or the finiteness assumption, but I'm not quite sure what it is

File: Mathlib/Order/Interval/Set/Icc.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Order/Interval/Set/Icc.lean:35]: I think the following might be the "right" lemma:
```lean
lemma Set.ordConnected_iff_disjoint_Ioo_empty [LinearOrder α] [LocallyFiniteOrder α] :
    I.OrdConnected ↔ ∀ᵉ (x ∈ I) (y ∈ I), Disjoint (Ioo x y) I → Ioo x y = ∅ := by
```
I expect to have some time this evening so I'll attempt to prove + use this, and adjust as you suggest.

Comment (ocfnash) [reply Mathlib/Order/Interval/Set/Icc.lean]: I'm happy to set this up however you think best: all I really want is the characterisation of closed intervals in `ℤ` which is convenient for my purpose.

For now I've pushed up a version assuming `LocallyFiniteOrder` but I do see your point. I think there is something more to this since I couldn't see a proof that `∀ᵉ (x ∈ I) (y ∈ I), Disjoint (Ioo x y) I → Ioo x y = ∅` and `I.OrdConnected` are equivalent without adding some assumptions, and `LocallyFiniteOrder` seems to be too strong (e.g., it rules out `ℝ`). However I'm inclined to think that this is enough general nonsense for the time being.

Comment (b-mehta) [reply Mathlib/Order/Interval/Set/Icc.lean]: Makes sense, would you mind leaving a comment/TODO about generalising the typeclasses here so it doesn't get forgotten? I'm otherwise happy to stick with your current version

File: Mathlib/Order/SuccPred/Basic.lean [hunk 4]
```diff
@@ -504,6 +504,15 @@ theorem Ico_succ_right_eq_insert (h : a ≤ b) : Ico a (succ b) = insert b (Ico
 theorem Ioo_succ_right_eq_insert (h : a < b) : Ioo a (succ b) = insert b (Ioo a b) :=
   Ioo_succ_right_eq_insert_of_not_isMax h <| not_isMax b
 
+@[simp]
+protected lemma Ioo_eq_empty_iff_le_succ : Ioo a b = ∅ ↔ b ≤ succ a := by
```
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/Order/SuccPred/Basic.lean]: Done!

File: Mathlib/Order/Interval/Set/OrdConnectedLinear.lean [hunk 5]
```diff
@@ -0,0 +1,76 @@
...
+some convenience lemmas for characterising closed intervals in certain concrete types such as `ℤ`,
+`ℕ`, and `Fin n`.
+
+## Main results:
+ * `Set.ordConnected_iff_disjoint_Ioo_empty`: a characterisation of `Set.OrdConnected` for
+   locally-finite linear orders.
+ * `Set.Nonempty.ordConnected_iff_of_bdd`: a characterisation of closed intervals for locally-finite
+   conditionally complete linear orders.
+ * `Set.Nonempty.ordConnected_iff_of_bdd'`: characterisation of closed intervals for locally-finite
+   conditionally complete linear orders (convenient for `Fin n`).
```
Comment (b-mehta) [inline Mathlib/Order/Interval/Set/OrdConnectedLinear.lean:25]:
```suggestion
 * `Set.Nonempty.ordConnected_iff_of_bdd'`: a characterisation of closed intervals for locally-finite
   complete linear orders (convenient for `Fin n`).
```

File: Mathlib/Order/Interval/Set/Icc.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Order/Interval/Set/Icc.lean]: I've added a TODO try and capture this. LMK if you feel it needs adjusting.

File: Mathlib/Order/Interval/Set/OrdConnectedLinear.lean [hunk 6]
```diff
@@ -0,0 +1,79 @@
...
+    [ConditionallyCompleteLinearOrder α] [LocallyFiniteOrder α]
+    (h₀ : I.Nonempty) (h₁ : BddBelow I) (h₂ : BddAbove I) :
+    I.OrdConnected ↔ I = Icc (sInf I) (sSup I) :=
+  have h₄ : I.Finite := h₁.finite_of_bddAbove h₂
+  ⟨fun _ ↦ le_antisymm (subset_Icc_csInf_csSup h₁ h₂)
+    (I.Icc_subset (h₀.csInf_mem h₄) (h₀.csSup_mem h₄)), fun h₃ ↦ h₃ ▸ ordConnected_Icc⟩
+
+/-- A version of `Set.Nonempty.ordConnected_iff_of_bdd` for complete linear orders, such as `Fin n`,
+in which the explicit boundedness hypotheses are not necessary. -/
+lemma Set.Nonempty.ordConnected_iff_of_bdd' [CompleteLinearOrder α] [LocallyFiniteOrder α]
```
Comment (b-mehta) [inline Mathlib/Order/Interval/Set/OrdConnectedLinear.lean:42]: Now that I think about it, this might work for `OrderBot + OrderTop + ConditionallyCompleteLinearOrder + LocallyFiniteOrder` with exactly the same proof?

File: Mathlib/Order/Interval/Set/OrdConnectedLinear.lean [hunk 7]
```diff
@@ -0,0 +1,79 @@
...
+    (h₀ : I.Nonempty) :
+    I.OrdConnected ↔ I = Icc (sInf I) (sSup I) :=
+  h₀.ordConnected_iff_of_bdd (OrderBot.bddBelow I) (OrderTop.bddAbove I)
+
+/- TODO The `LocallyFiniteOrder` assumption here is probably too strong (e.g., it rules out `ℝ`
+   for which this result holds). However at the time of writing it is not clear what weaker
+   assumption(s) should replace it. -/
```
Comment (b-mehta) [inline Mathlib/Order/Interval/Set/OrdConnectedLinear.lean:49]:
```suggestion
for which this result holds). However at the time of writing it is not clear what weaker
assumption(s) should replace it. -/
```

**Review by b-mehta — COMMENTED** [review]
Sorry for the multiple rounds!

File: Mathlib/Order/Interval/Set/OrdConnectedLinear.lean (hunk 6 above)
Comment (ocfnash) [reply Mathlib/Order/Interval/Set/OrdConnectedLinear.lean]: Done!

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
